US07560558B2
Compound 356: N-{2-[6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yloxy]-ethyl}-guanidine
Trifluoroacetic acid (1 ml) was added to N-{2-[6-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yloxy]-ethyl}-N′,N″-diboc-guanidine (222 mg) at 0° C., and the mixture was then stirred at 0° C. for 2 hr. The reaction solution was made alkaline by the addition of a 1 N aqueous sodium hydroxide solution and was extracted with n-butanol. The n-butanol layer was washed with water and was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (150 mg, yield 100%).

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-{2-[6-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yloxy]-ethyl}-N′,N″-diboc-guanidine | 222 mg | COC=1C=C2C(=CC=NC2=CC1OCCNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OC=1C(=NC2=CC=CC=C2C1)C | C33H39N5O7
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | N-{2-[6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yloxy]-ethyl}-guanidine | 150 mg, yield 100% | COC=1C=C2C(=CC=NC2=CC1OCCNC(=N)N)OC=1C(=NC2=CC=CC=C2C1)C | C23H23N5O3
